US08835689B2
4-benzyl-4-dimethylaminomethyl-1-methylamino-cyclohexane carbonitrile
40% aqueous methylamine solution (15.3 mL, 121 mmol) and 4-benzyl-4-((dimethylamino)methyl)cyclohexanone (6.20 g, 25.3 mmol) dissolved in methanol (25 mL) were added to a solution of 4N hydrochloric acid (6.6 mL) and methanol (4.00 mL) cooled to 0° C. The reaction mixture was then mixed with potassium cyanide (4.00 g, 60 mmol) and stirred for 5 d at room temperature. For work up the mixture was diluted with water (180 mL) and extracted with ether (3×100 mL). The combined organic phases were dried over Na2SO4, filtered and concentrated until dry in a vacuum.

reactant | methylamine | 121 mmol, 15.3 mL | CN | CH5N
reactant | 4-benzyl-4-((dimethylamino)methyl)cyclohexanone | 25.3 mmol, 6.20 g | C(C1=CC=CC=C1)C1(CCC(CC1)=O)CN(C)C | C16H23NO
reactant | hydrochloric acid | 4N, 6.6 mL | Cl | ClH
reactant | potassium cyanide | 60 mmol, 4.00 g | [C-]#N.[K+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 180 mL | O | H2O
solvent | methanol | 4.00 mL | CO | CH4O
product | 4-benzyl-4-dimethylaminomethyl-1-methylamino-cyclohexane carbonitrile | C(C1=CC=CC=C1)C1(CCC(CC1)(C#N)NC)CN(C)C | C18H27N3
